US05153210
A solution of ethyl 2-chloroacetoacetate (8.25 g) in dry dimethylformamide was treated with sodium hydride (1.3 g and stirred at ambient temperature for 0.5 h. A solution of 4-(bromomethyl)phenylpropan-2-one, ethylene ketal (12.0 g) in dry dimethylformamide (20 ml) was then added and the mixture was heated at 70° C. for 4 h. The reaction mixture was cooled, poured into ice/water, acidified with 2N-hydrochloric acid, extracted with ethyl acetate (4×50 ml) and the combined organic extracts dried (magnesium sulphate), filtered and evaporated in vacuo. The residue was dissolved in ethanol and treated at 0°-5° C. with barium hydroxide hydrate (7.7 g). The mixture was stirred for 0.5 h, poured into ice/water, extracted with ethyl acetate (3×50 ml) and the combined organic extracts dried (magnesium sulphate), filtered and evaporated in vacuo to leave a red oil, which was purified by column chromatography on silica using diethyl ether: petroleum ether (60°-80°) (30:70) as eluent to give ethyl 3-(4-acetonylphenyl)-2-chloropropionate, ethylene ketal, (6.0 g).

reactant | ethyl 2-chloroacetoacetate | 8.25 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | sodium hydride | [H-].[Na+]
reactant | 4-(bromomethyl)phenylpropan-2-one | BrCC1=CC=C(C=C1)CC(C)=O | C10H11BrO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 3-(4-acetonylphenyl)-2-chloropropionate | C(C(=O)C)C1=CC=C(C=C1)CC(C(=O)OCC)Cl | C14H17ClO3
